// pe1.scs - Minimal Processing Element (PE) with ALU4 only
// Inputs: A[3:0], B[3:0], OP[1:0]
// Outputs: Y[3:0], COUT
// Run: spectre pe1.scs -raw pe1.raw

simulator lang=spectre

parameters vdd_val=1.8

// MOSFET Models
model nch mos1 type=n vto=0.4 kp=120u
model pch mos1 type=p vto=-0.4 kp=40u

// Supply
V_VDD (vdd 0) vsource dc=vdd_val

// Inputs via PWL (4 cases)
// t=5ns:  op=00 AND, A=0x5, B=0x3
// t=15ns: op=01 OR,  A=0xA, B=0x4
// t=25ns: op=10 XOR, A=0x6, B=0x9
// t=35ns: op=11 ADD, A=0xF, B=0x1
V_OP0 (op0 0) vsource type=pwl wave=[0 0   9.9n 0   10n 1.8 19.9n 1.8 20n 0   29.9n 0   30n 1.8 39.9n 1.8 40n 1.8]
V_OP1 (op1 0) vsource type=pwl wave=[0 0   9.9n 0   10n 0   19.9n 0   20n 1.8 29.9n 1.8 30n 1.8 39.9n 1.8 40n 1.8]

V_A0 (a0 0) vsource type=pwl wave=[0 1.8 9.9n 1.8 10n 0   19.9n 0   20n 0   29.9n 0   30n 1.8 39.9n 1.8 40n 1.8]
V_A1 (a1 0) vsource type=pwl wave=[0 0   9.9n 0   10n 1.8 19.9n 1.8 20n 1.8 29.9n 1.8 30n 1.8 39.9n 1.8 40n 1.8]
V_A2 (a2 0) vsource type=pwl wave=[0 1.8 9.9n 1.8 10n 0   19.9n 0   20n 1.8 29.9n 1.8 30n 1.8 39.9n 1.8 40n 1.8]
V_A3 (a3 0) vsource type=pwl wave=[0 0   9.9n 0   10n 1.8 19.9n 1.8 20n 0   29.9n 0   30n 1.8 39.9n 1.8 40n 1.8]

V_B0 (b0 0) vsource type=pwl wave=[0 1.8 9.9n 1.8 10n 0   19.9n 0   20n 1.8 29.9n 1.8 30n 1.8 39.9n 1.8 40n 1.8]
V_B1 (b1 0) vsource type=pwl wave=[0 1.8 9.9n 1.8 10n 0   19.9n 0   20n 0   29.9n 0   30n 0   39.9n 0   40n 0  ]
V_B2 (b2 0) vsource type=pwl wave=[0 0   9.9n 0   10n 1.8 19.9n 1.8 20n 0   29.9n 0   30n 0   39.9n 0   40n 0  ]
V_B3 (b3 0) vsource type=pwl wave=[0 0   9.9n 0   10n 0   19.9n 0   20n 1.8 29.9n 1.8 30n 0   39.9n 0   40n 0  ]

// CIN held low
V_CIN0 (cin0 0) vsource dc=0

// Subcircuits (mirrors alu4)
subckt inverter (in out vdd)
    MP0 (out in vdd vdd) pch w=2u l=1u
    MN0 (out in 0 0) nch w=1u l=1u
ends inverter

subckt nand2 (a b out vdd)
    MP0 (out a vdd vdd) pch w=2u l=1u
    MP1 (out b vdd vdd) pch w=2u l=1u
    MN0 (out a mid 0) nch w=2u l=1u
    MN1 (mid b 0 0) nch w=2u l=1u
ends nand2

subckt nor2 (a b out vdd)
    MP0 (mid a vdd vdd) pch w=4u l=1u
    MP1 (out b mid mid) pch w=4u l=1u
    MN0 (out a 0 0) nch w=1u l=1u
    MN1 (out b 0 0) nch w=1u l=1u
ends nor2

subckt and2 (a b out vdd)
    X_NAND (a b n_out vdd) nand2
    X_INV (n_out out vdd) inverter
ends and2

subckt or2 (a b out vdd)
    X_NOR (a b n_out vdd) nor2
    X_INV (n_out out vdd) inverter
ends or2

subckt xor2 (a b out vdd)
    X_N1 (a b n1 vdd) nand2
    X_N2 (a n1 n2 vdd) nand2
    X_N3 (b n1 n3 vdd) nand2
    X_N4 (n2 n3 out vdd) nand2
ends xor2

subckt mux2 (a b s out vdd)
    X_INV (s s_n vdd) inverter
    X_AND0 (a s_n a_and vdd) and2
    X_AND1 (b s b_and vdd) and2
    X_OR (a_and b_and out vdd) or2
ends mux2

subckt full_adder (a b cin sum cout vdd)
    X_X1 (a b axb vdd) xor2
    X_X2 (axb cin sum vdd) xor2
    X_A1 (a b a_and_b vdd) and2
    X_A2 (cin axb c_and_axb vdd) and2
    X_OR (a_and_b c_and_axb cout vdd) or2
ends full_adder

subckt alu1 (a b cin op0 op1 y cout vdd)
    X_AND (a b and_out vdd) and2
    X_OR  (a b or_out vdd)  or2
    X_XOR (a b xor_out vdd) xor2
    X_ADD (a b cin sum_out cout vdd) full_adder

    X_M0 (and_out or_out op0 m0 vdd) mux2
    X_M1 (xor_out sum_out op0 m1 vdd) mux2
    X_M2 (m0 m1 op1 y vdd) mux2
ends alu1

subckt alu4 (a0 a1 a2 a3 b0 b1 b2 b3 op0 op1 y0 y1 y2 y3 cout vdd)
    X0 (a0 b0 cin0 op0 op1 y0 c1 vdd) alu1
    X1 (a1 b1 c1   op0 op1 y1 c2 vdd) alu1
    X2 (a2 b2 c2   op0 op1 y2 c3 vdd) alu1
    X3 (a3 b3 c3   op0 op1 y3 cout vdd) alu1
ends alu4

subckt pe1 (a0 a1 a2 a3 b0 b1 b2 b3 op0 op1 y0 y1 y2 y3 cout vdd)
    X_ALU (a0 a1 a2 a3 b0 b1 b2 b3 op0 op1 y0 y1 y2 y3 cout vdd) alu4
ends pe1

// PE1
X_PE (a0 a1 a2 a3 b0 b1 b2 b3 op0 op1 y0 y1 y2 y3 cout vdd) pe1

// Analysis
tran_test tran stop=45n

save y0 y1 y2 y3 cout op0 op1 a0 a1 a2 a3 b0 b1 b2 b3
